US07592373B2
4.3.b. 3-pyridin-2-ylpropynoic acid-[3-chloro-4-(2-diethylaminoethoxy)phenyl]amide hydrochloride
Prepared analogously to Example 2.3.f. from pyridin-2-ylpropynoic acid and [2-(2-chloro-4-aminophenoxy)ethyl]diethylamine. Yield: 0.37 g (53.3% of theory); C20H22ClN3O2*HCl (M=408.33); calc.: molecular ion peak (M+H)+: 372/374; found: molecular ion peak (M+H)+: 372/374; Rf value: 0.5 (silica gel, dichloromethane/methanol/ammonia (9:1:0.1)).

reactant | pyridin-2-ylpropynoic acid | N1=C(C=CC=C1)C#CC(=O)O | C8H5NO2
reactant | [2-(2-chloro-4-aminophenoxy)ethyl]diethylamine | ClC1=C(OCCN(CC)CC)C=CC(=C1)N | C12H19ClN2O
reactant | dichloromethane methanol ammonia | ClCCl.CO.N
product | 3-pyridin-2-ylpropynoic acid-[3-chloro-4-(2-diethylaminoethoxy)phenyl]amide hydrochloride | Cl.ClC=1C=C(C=CC1OCCN(CC)CC)NC(C#CC1=NC=CC=C1)=O | InChI=1S/C20H22ClN3O2.ClH/c1-3-24(4-2)13-14-26-19-10-8-17(15-18(19)21)23-20(25)11-9-16-7-5-6-12-22-16;/h5-8,10,12,15H,3-4,13-14H2,1-2H3,(H,23,25);1H
